************************************************************************
* auCdl Netlist:
* 
* Library Name:  TIGFET10nm
* Top Cell Name: G3_MUXI2_N1
* View Name:     schematic
* Netlisted on:  Mar  9 13:34:39 2022
************************************************************************

.INCLUDE  ~/TIGFET-10nm-PDK/calibre/tigfet.sp
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TIGFET10nm
* Cell Name:    G3_MUXI2_N1
* View Name:    schematic
************************************************************************

.SUBCKT G3_MUXI2_N1 A B SEL Vdd Vss Z
*.PININFO A:I B:I SEL:I Z:O Vdd:B Vss:B
XI5 Z Vdd SELI B Vss / TIGFET_PCELL_SP15CP15_N1
XI4 Z Vdd SEL A Vss / TIGFET_PCELL_SP15CP15_N1
XI3 Z Vss SEL B Vdd / TIGFET_PCELL_SP15CP15_N1
XI0 Z Vss SELI A Vdd / TIGFET_PCELL_SP15CP15_N1
XI2 SELI Vss SEL Vss Vdd / TIGFET_PCELL_SP15CP15_N1
XI1 SELI Vdd SEL Vdd Vss / TIGFET_PCELL_SP15CP15_N1
.ENDS

